US04473085
Preparation And Pyrolysis Of Methyl 2,2-Dimethyl-3-hydroxy-3-phenylpropionate
A 50 milligram sample of the prepared hydroxy-ester is pyrolyzed in a sealed tube at 200° C. for 30 minutes. Analysis of the pyrolyzate by liquid chromatography indicates the following composition: 93% of unreacted starting material and 7% of a 1:1 mixture of benzaldehyde and methyl isobutyrate.

reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | methyl isobutyrate | C(C(C)C)(=O)OC | C5H10O2
product | Methyl 2,2-Dimethyl-3-hydroxy-3-phenylpropionate | CC(C(=O)OC)(C(C1=CC=CC=C1)O)C | C12H16O3
